US07148226B2
Preparation of Compound (6-chloro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methanol
To a slurry of (3-amino-1H-1,2,4-triazol-5-yl)methanol (28.5 g, 150 mmol) in acetic acid was added chloromalonaldehyde (16 g, 150 mmol). The mixture was heated to 80° C. for 4 hours. Upon cooling of the reaction to room temperature, the product crystallized out as a white solid (25.5 g, 92%). 1H NMR (300 MHz, DMSO-D6) δ: 4.67 (s, 2 H), 5.62 (s, 1 H), 8.94 (d, J=2.45 Hz, 1 H), 9.81 (d, J=2.45 Hz, 1 H). MS (APCI): 185.0 (M+H+).

reactant | (3-amino-1H-1,2,4-triazol-5-yl)methanol | 150 mmol, 28.5 g | NC1=NNC(=N1)CO | C3H6N4O
reactant | chloromalonaldehyde | 150 mmol, 16 g | ClC(C=O)C=O | C3H3ClO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (6-chloro[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methanol | ClC=1C=NC=2N(C1)N=C(N2)CO | C6H5ClN4O
